US08110579B2
Add, dropwise, 5.5 mL (8.8 mmol) of a 1.6N solution of butyllithium in hexane in the space of 30 min to a solution of 2.38 g (8.4 mmol) of 1-chloro-2-iodo-4-ethoxybenzene in 50 mL of anhydrous THF cooled under argon to −78° C. After 2 h at −70° C., add 1.74 g (9.2 mmol) of triisopropyl borate and stir the reaction mixture for 3 h at room temperature, then distribute in 200 mL of EtOAc/HCl aq 5N 1:1 mixture. Wash the organic phase with 50 mL of water, dry over Na2SO4 and concentrate under reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a DCM/methanol gradient from 0 to 10% of methanol. After concentration under reduced pressure, we obtain 990 mg of (2-chloro-5-ethoxyphenyl)boronic acid, in the form of oil.

reactant | butyllithium | C(CCC)[Li]
reactant | 1-chloro-2-iodo-4-ethoxybenzene | 8.4 mmol, 2.38 g | ClC1=C(C=C(C=C1)OCC)I | C8H8ClIO
reactant | triisopropyl borate | 9.2 mmol, 1.74 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc HCl | 5N, 200 mL | CCOC(=O)C.Cl
product | (2-chloro-5-ethoxyphenyl)boronic acid | 990 mg, Yield=59% | ClC1=C(C=C(C=C1)OCC)B(O)O | C8H10BClO3
